US08440326B2
Synthesis of N4,N4,N4′-triphenylbiphenyl-4,4′-diamine
4-(diphenylamino)phenylboronic acid (4.87 g, 16.8 mmol), 4-bromo-N-phenylaniline (3.5 g, 14 mmol), potassium phosphate (9.2 g, 42 mmol), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (0.23 g, 0.56 mmol) were added to a three-neck flask under nitrogen. 200 mL of toluene and 20 mL of water was then added. The solution was degassed with nitrogen for 20 minutes. Pd2(dba)3 (0.13 g, 0.14 mmol) was added to the mixture. The mixture was then heated up to reflux overnight. After cooled to room temperature, the organic layer was separated and dried over magnesium sulfate. After evaporating solvent, the residue was purified by column chromatography using 1:2 dichloromethane and hexanes as eluent. 4.7 g of desired product was obtained. (81% yield)

reactant | 4-(diphenylamino)phenylboronic acid | 16.8 mmol, 4.87 g | C1(=CC=CC=C1)N(C1=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C18H16BNO2
reactant | 4-bromo-N-phenylaniline | 14 mmol, 3.5 g | BrC1=CC=C(NC2=CC=CC=C2)C=C1 | C12H10BrN
reactant | potassium phosphate | 42 mmol, 9.2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.14 mmol, 0.13 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.56 mmol, 0.23 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | water | 20 mL | O | H2O
product | N4,N4,N4′-triphenylbiphenyl-4,4′-diamine | 4.7 g, 81% yield | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)NC1=CC=CC=C1)C1=CC=CC=C1 | C30H24N2
